US08461134B2
A solution of methyl 2-(3-nitrophenyl)acetate (12 g, 62 mmol) in THF (100 ml) was cooled to 0° C., then MeOH (10 mL) was added slowly, followed by stirring at room temperature overnight. Water was added to terminate the reaction. The aqueous layer was extracted with ethyl acetate 3 times. The combined organic phase was washed with brine, dried over sodium sulfate and concentrated to give 2-(3-nitrophenyl)ethanol (9 g, yield 90%). 1H NMR: 400 MHz CDCl3 δ 8.11-8.07 (m, 2H), 7.59-7.56 (m, 1H), 7.49-7.45 (m, 1H), 3.94-3.91 (m, 2H), 2.99-2.96 (m, 2H).

reactant | methyl 2-(3-nitrophenyl)acetate | 62 mmol, 12 g | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)OC | C9H9NO4
reactant | MeOH | 10 mL | CO | CH4O
reactant | Water | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-(3-nitrophenyl)ethanol | 9 g, yield 90% | [N+](=O)([O-])C=1C=C(C=CC1)CCO | C8H9NO3
